US06809110B2
In analogy to the procedure described in example 14 b], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with 4-chloromethyl-2-phenyl-thiazole (prepared from thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a]) in the presence of cesium carbonate and potassium iodide to yield [rac]-2-ethoxy-3-[2-methyl-4-(2-phenyl-thiazol-4-ylmethoxy)-phenyl]-propionic acid ethyl ester as colorless liquid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-2-phenyl-thiazole | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-2-ethoxy-3-[2-methyl-4-(2-phenyl-thiazol-4-ylmethoxy)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC=CC=C1)C)OCC)=O | C24H27NO4S
